US05811428
A solution of ethyl ethoxymethylene-4,4,4-trifluoroacetoacetate (15 g, 62.5 mmol) and trifluoroacetamidine (12.6 g, 112.5 mmol) in EtOH (50 mL) was heated at reflux for 24 h under N2. The reaction mixture was cooled and concentrated. Chromatography (SiO2, 20% EtOAc/hexane) afforded ethyl-2,4-bis (trifluoromethyl)pyrimidine-5-carboxylate as an oil (7.0 g, 39%), 1HNMR (CDCl3) δ 9.37 (s, 1H), 3.70 (q, 2H), 1.27 (t, 3H).

reactant | ethyl ethoxymethylene-4,4,4-trifluoroacetoacetate | 62.5 mmol, 15 g | C(C)OC=C(C(=O)OCC)C(=O)C(F)(F)F | C9H11F3O4
reactant | trifluoroacetamidine | 112.5 mmol, 12.6 g | FC(C(=N)N)(F)F | C2H3F3N2
solvent | EtOH | 50 mL | CCO | C2H6O
product | ethyl-2,4-bis (trifluoromethyl)pyrimidine-5-carboxylate | 7.0 g, 39% | C(C)OC(=O)C=1C(=NC(=NC1)C(F)(F)F)C(F)(F)F | C9H6F6N2O2
